US07696215B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 4, 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid was reacted with 3-aminoisoxazole to give 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide; NMR Spectrum: (DMSOd6) 1.03 (t, 3H), 2.19 (s, 3H), 2.38 (q, 2H), 2.53 (m, 4H), 3.35 (m, 4H), 7.04 (s, 1H), 7.60 (d, 1H), 7.69 (s, 1H), 8.10 (m, 3H), 8.29 (s, 1H), 8.84 (s, 1H), 11.47 (s, 1H); Mass Spectrum: M+H+ 484.

reactant | 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)O)C=CC1C)=O)N1CCN(CC1)CC | C23H23N5O3
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O)N1CCN(CC1)CC | C26H25N7O3
